US08222416B2
A mixture of 5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (180 mg, 0.45 mmol) and 10% palladium on activated carbon (50 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (120 mg, 66.7%) as a white solid: LC/MS m/e calcd for C22H23F3N2O2 [M+H]+ 405.44, observed 405.2; 1H NMR (400 MHz, CD3OD) δ ppm 7.84 (d, J=2.5 Hz, 1H), 7.59 (d, J=8.3 Hz, 2H), 7.51 (d, J=8.3 Hz, 2H), 7.48 (d, J=2.5 Hz, 1H), 6.30 (s, 1H), 4.36 (t, J=8.1 Hz, 1H), 3.86-3.95 (m, 2H), 3.20-3.30 (m, 2H), 2.16-2.27 (m, 1H), 1.98 (ddd, J=13.9, 7.3, 7.1 Hz, 1H), 1.70 (t, J=14.5 Hz, 2H), 1.48 (dddd, J=14.5, 10.8, 7.2, 3.7 Hz, 1H), 1.26-1.42 (m, 2H).

reactant | 5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.45 mmol, 180 mg | COC=1C=C2C(=NC1)NC(=C2)C(=CC2CCOCC2)C2=CC=C(C=C2)C(F)(F)F | C22H21F3N2O2
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 5-methoxy-2-[2-(tetrahydro-pyran-4-yl)-1-(4-trifluoromethyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 120 mg, 66.7% | COC=1C=C2C(=NC1)NC(=C2)C(CC2CCOCC2)C2=CC=C(C=C2)C(F)(F)F | C22H23F3N2O2
